US05468865
A mixture of 5.3 g. of (R)-N-(3,4-dimethoxybenzyl)-1-(3,4-dimethoxyphenyl)-prop-2-ylamine, 3.94 g. of 3-chlorophenylcarboxymethyl bromide, and 4.9 g. of sodium carbonate in 50 mL of methylene chloride and 20 mL of water is stirred at room temperature for 16 hours. Upon completion of the reaction as determined by TLC and HPLC, the reaction mixture is diluted with methylene chloride, the aqueous layer is separated, and the organic layer is washed twice with 10% aqueous hydrochloric acid, dried over magnesium sulfate, and concentrated to yield (R)-N-(3,4-dimethoxybenzyl)-N-(3-chlorophenylcarboxymethyl)-1-(3,4-dimethoxyphenyl)-prop-2-ylamine hydrochloride.

reactant | (R)-N-(3,4-dimethoxybenzyl)-1-(3,4-dimethoxyphenyl)-prop-2-ylamine | COC=1C=C(CN[C@@H](CC2=CC(=C(C=C2)OC)OC)C)C=CC1OC | C20H27NO4
reactant | 3-chlorophenylcarboxymethyl bromide | ClC=1C=C(C=CC1)C(C(=O)O)Br | C8H6BrClO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | water | 20 mL | O | H2O
product | (R)-N-(3,4-dimethoxybenzyl)-N-(3-chlorophenylcarboxymethyl)-1-(3,4-dimethoxyphenyl)-prop-2-ylamine hydrochloride | Cl.COC=1C=C(CN(C(C(=O)O)C2=CC(=CC=C2)Cl)[C@@H](CC2=CC(=C(C=C2)OC)OC)C)C=CC1OC | InChI=1S/C28H32ClNO6.ClH/c1-18(13-19-9-11-23(33-2)25(14-19)35-4)30(17-20-10-12-24(34-3)26(15-20)36-5)27(28(31)32)21-7-6-8-22(29)16-21;/h6-12,14-16,18,27H,13,17H2,1-5H3,(H,31,32);1H/t18-,27?;/m1./s1
